US08735414B2
Into a mixture of 4-fluoro-2-iodo-5-methylaniline (12.0 g, 47.8 mmol, plus ca. 10% of the undesired isomer), PdCl2(PPh3)2 (1.68 g, 2.39 mmol) and copper(I) iodide (0.455 g, 2.39 mmol) in triethylamine (125 mL) at 0° C. was added trimethylsilylacetylene (5.15 g, 52.6 mmol) dropwise. The mixture was warmed to room temperature and stirred overnight. The solvent was evaporated and the residue was dissolved in ethyl ether and filtered. The filtrate was evaporated and purified via flash chromatography with 5-35% ethyl acetate in hexane to give 4-fluoro-5-methyl-2-((trimethylsilyl)ethynyl)aniline (10.3 g, 97%), which contained ˜10% of the undesired isomer (4-fluoro-3-methyl-2-((trimethylsilyl)ethynyl)aniline).

reactant | 4-fluoro-2-iodo-5-methylaniline | FC1=CC(=C(N)C=C1C)I | C7H7FIN
reactant | trimethylsilylacetylene | 52.6 mmol, 5.15 g | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 125 mL | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 2.39 mmol, 1.68 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 2.39 mmol, 0.455 g | [Cu]I
product | 4-fluoro-5-methyl-2-((trimethylsilyl)ethynyl)aniline | 10.3 g, 97% | FC1=CC(=C(N)C=C1C)C#C[Si](C)(C)C | C12H16FNSi
